US05670508
Ethyl 2-(4-phenylmethylpiperazin-1-yl)-3-oxo-butyrate (3)
A mixture of ethyl 3-chloro-2-oxopropionate (85.15 g, 0.52 mol), N-benzylpiperazine (6.42 g, 0.49 mol) and K2CO3 (7.1 g, 0.52 mol) in 1L of AcCN was stirred at 50° C. for 24 h. AcCN was removed in vacuo. The residue was partitioned between aqueous Na2CO3 solution (5%, 300 mL) and EtOAC (300 mL×2). The combined EtOAc solution was extracted with 1N aqueous HCl solution. The aqueous solution was separated, neutralized with Na2CO3 to pH 9 and extracted with EtOAc (250 mL×2). The EtOAc layer was separated, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to give 132.60 g (89%) of the desired product as pale yellow liquid. IR(KBr): 3011, 2940, 2810, 1740, 1720, 1650, 1358, 1325, 1250, 1016 cm-1 ; 1H-NMR (80 MHz, CDCl3): δ 1.17-1.24 (t, J=7.1 Hz, 3H, CH3CH2OCO--), 2.05 (s, 3H, CH3CO--), 2.40-2.50 (m, 4H, piperazinyl-H), 2.60-2.70 (m, 4H, piperazinyl-H), 3.45 (s, 2H, --CH2 --Ph), 3.84 (s, 1H, CH3CO--CH--), 4.11-4.18 (q, J=7.1 Hz, 2H, CH3CH2OCO--), 7.10-7.29 (m, 5H, Ph-H) ppm; EI MS m/z (relative-intensity): 304 (M+, 13), 261 (100), 231 (10), 170 (29), 91 (95).

reactant | ethyl 3-chloro-2-oxopropionate | 0.52 mol, 85.15 g | ClCC(C(=O)OCC)=O | C5H7ClO3
reactant | N-benzylpiperazine | 0.49 mol, 6.42 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | K2CO3 | 0.52 mol, 7.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | AcCN | C(=O)(C)C#N | C3H3NO
product | Ethyl 2-(4-phenylmethylpiperazin-1-yl)-3-oxo-butyrate | 132.60 g, 89% | C1(=CC=CC=C1)CN1CCN(CC1)C(C(=O)OCC)C(C)=O | C17H24N2O3
